US08431538B2
2-Methyl-2,3,4,9-tetrahydro-1H-β-carboline (16)
2,3,4,9-Tetrahydro-1H-β-carboline (0.50 g, 2.9 mmol) and NaCNBH3 (0.44 g, 7.0 mmol) were added to a round bottomed flask, dissolved in MeOH (35 mL), and treated with 3.23 mL of a 27% solution of formaldehyde in water. This mixture was stirred for 2 h, after which, 2N HCl (50 mL) was added, followed by stirring for 15 min. The mixture was taken to pH=11 by addition of concentrated, aqueous NaOH and extracted with methylene chloride (3×30 mL). The combined organic layers were washed with brine, dried (Na2SO4), and concentrated. The product was purified by MPCC (0-10% gradient of MeOH in CH2Cl2), giving the title compound (511 mg, 95%) as a white solid. 1H NMR (400 MHz, CD3OD): δ 7.39 (d, 1H, J=7.7 Hz), 7.27 (d, 1H, J=8.0 Hz), 7.05 (t, 1H, J=7.5 Hz), 6.96 (t, 1H, J=7.7 Hz), 3.68 (s, 2H), 2.86 (m, 4H), 2.53 (s, 3H). 13C NMR APT (100 MHz, CD3OD): δ 136.1 (up), 131.7 (up), 127.2 (up), 121.2 (down), 119.2 (down), 117.9 (down), 110.8 (down), 107.8 (up), 53.0

reactant | 2,3,4,9-Tetrahydro-1H-β-carboline | 2.9 mmol, 0.50 g | C1NCCC=2C3=CC=CC=C3NC12 | C11H12N2
reactant | NaCNBH3 | 7.0 mmol, 0.44 g | [BH3-]C#N.[Na+]
reactant | formaldehyde | C=O | CH2O
reactant | HCl | 2N, 50 mL | Cl | ClH
solvent | MeOH | 35 mL | CO | CH4O
solvent | water | O | H2O
product | 2-Methyl-2,3,4,9-tetrahydro-1H-β-carboline | 511 mg, 95% | CN1CC=2NC3=CC=CC=C3C2CC1 | C12H14N2
